US08124629B2
A 1.0 M solution of diisobutylaluminum hydride in toluene (13 mL, 13 mmol) was added slowly drop-wise to a 0° C. solution of 2-iodo-4-trifluoromethyl-benzonitrile (3.58 g, 12 mmol) in toluene (11 mL). The reaction mixture was stirred at 0° C. for 30 minutes. The reaction mixture was warmed to room temperature, then stirred at room temperature for 24 hours. The reaction mixture was cooled to 0° C., then ethyl acetate (5 mL), and ethanol (5 mL) were added dropwise to the cold reaction mixture. After stirring at 0° C. for 10 minutes, the reaction mixture was concentrated to give a yellow, oily liquid. The residue was cooled to 0° C. Methylene chloride (10 mL) was added. Water (10 mL) was added slowly drop-wise, then 1.0 N aqueous HCl was added slowly drop-wise. After stirring at 0° C. for 10 minutes, concentrated HCl (1 mL) was added followed by additional methylene chloride (60 mL). The mixture was stirred at 0° C. for 10 minutes, then warmed to room temperature. Stirring at room temperature continued for 105 minutes. The mixture was poured into a separatory funnel, and the organic phase was separated, dried over Na2SO4, filtered, and concentrated to an oily, yellow solid. The crude product was purified using flash chromatography (RediSep® Flash column, 230-400 mesh, 0-3% ethyl acetate in hexanes) to give 1.44 g (40%) of 2-iodo-4-trifluoromethyl-benzaldehyde as a slightly yellow solid. 1H NMR (300 MHz, CDCl3) δ ppm 10.11 (s, 1 H), 8.20 (s, 1 H), 7.97 (d, J=8.2 Hz, 1 H), 7.73 (d, J=8.2 Hz, 1 H).

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2-iodo-4-trifluoromethyl-benzonitrile | 12 mmol, 3.58 g | IC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F3IN
reactant | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
reactant | HCl | 1.0 N | Cl | ClH
reactant | HCl | 1 mL | Cl | ClH
solvent | toluene | 11 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 13 mmol, 13 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 10 mL | O | H2O
solvent | Methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-iodo-4-trifluoromethyl-benzaldehyde | 1.44 g, 40% | IC1=C(C=O)C=CC(=C1)C(F)(F)F | C8H4F3IO
